US07199147B2
A 2N-aqueous lithium hydroxide solution (3.7 ml, 7.4 mmol) was added to a solution of (1-acetyl-7-methyl-1H-indazol-5-yl)acetate (850 mg, 3.66 mmol) in methanol-tetrahydrofuran (1:1, 7.4 ml), and the resulting mixture was stirred at room temperature for 30 minutes. A saturated aqueous ammonium chloride solution was poured into the reaction solution, followed by extraction with ethyl acetate, and the extract solution was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and then distilled under reduced pressure to remove the solvent. The residue was purified by a silica gel column chromatography (eluent: chloroform/methanol=100:3) to obtain 7-methyl-1H-indazol-5-ol (505 mg, 93%).

reactant | lithium hydroxide | 7.4 mmol, 3.7 ml | [OH-].[Li+]
reactant | (1-acetyl-7-methyl-1H-indazol-5-yl)acetate | 3.66 mmol, 850 mg | C(C)(=O)N1N=CC2=CC(=CC(=C12)C)CC(=O)[O-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol tetrahydrofuran | 7.4 ml | CO.O1CCCC1
product | 7-methyl-1H-indazol-5-ol | 505 mg, 93% | CC=1C=C(C=C2C=NNC12)O | C8H8N2O
